US05661160
Synthesis of 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dibromo-4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide
Combine 1-[3-(3,4-dichloro-phenyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide hydrochloride (241 mg, 0.41 mmol), 3,5-dibromo-4-methoxy-benzoic acid (0.23 g, 0.75 mmol), N,N-diisopropylethylamine (0.75 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC) (0.75 mmol), and 1-hydroxybenzotriazole hydrate (HOBT) (0.75 g, 1.1 mmol) in dichloromethane (10 mL). After 18 hour, dilute with dichloromethane and extract with 1M hydrochloric acid solution, 5% sodium bicarbonate solution, and water. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting sequentially with 50% ethyl acetate/hexane and then 6% methanol/dichloromethane to give the title compound:

reactant | 4-phenyl-piperidine-4-carboxylic acid amide hydrochloride | 0.41 mmol, 241 mg | Cl.C1(=CC=CC=C1)C1(CCNCC1)C(=O)N
reactant | 3,5-dibromo-4-methoxy-benzoic acid | 0.75 mmol, 0.23 g | BrC=1C=C(C(=O)O)C=C(C1OC)Br | C8H6Br2O3
reactant | N,N-diisopropylethylamine | 0.75 mmol | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.75 mmol | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenzotriazole hydrate | 1.1 mmol, 0.75 g | O.ON1N=NC2=C1C=CC=C2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | methanol dichloromethane | CO.ClCCl
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 1-[2-[3-(3,4-dichloro-phenyl)-1-(3,5-dibromo-4-methoxy-benzoyl)-pyrrolidin-3-yl]-ethyl]-4-phenyl-piperidine-4-carboxylic acid amide | ClC=1C=C(C=CC1Cl)C1(CN(CC1)C(C1=CC(=C(C(=C1)Br)OC)Br)=O)CCN1CCC(CC1)(C(=O)N)C1=CC=CC=C1 | C32H33Br2Cl2N3O3
